US04965270
A mixture of 4,6-dichloro-2,5-diformamidopyrimidine (3.5 g, 15 mmol), (R)-(2,2-dimethyl-1,3-dioxolan-4-ylmethoxy)amine (2.65 g, 18 mmol) and triethylamine (20 ml, 150 mmol) in dioxan (80 ml) was stirred at 100° C. for 4 hours. The reaction was cooled, filtered and evaporated under reduced pressure. The residue was chromatographed on silica, eluting with chloroform-methanol (10:1), affording slightly impure (R)-4-chloro-2,5-diformamido-6-(2,2-dimethyl-1, 3-dioxolan-4-ylmethoxyamino)pyrimidine (1.05 g, 20%) as pale orange solid. IR: υmax (nujol) 3400, 3300, 3180, 1690, 1650 cm-1 ;

reactant | 4,6-dichloro-2,5-diformamidopyrimidine | 15 mmol, 3.5 g | ClC1=NC(=NC(=C1NC=O)Cl)NC=O | C6H4Cl2N4O2
reactant | (R)-(2,2-dimethyl-1,3-dioxolan-4-ylmethoxy)amine | 18 mmol, 2.65 g | CC1(OC[C@@H](O1)CON)C | C6H13NO3
reactant | triethylamine | 150 mmol, 20 ml | C(C)N(CC)CC | C6H15N
solvent | dioxan | 80 ml | O1CCOCC1 | C4H8O2
product | (R)-4-chloro-2,5-diformamido-6-(2,2-dimethyl-1, 3-dioxolan-4-ylmethoxyamino)pyrimidine | 1.05 g, 20% | ClC1=NC(=NC(=C1NC=O)NOC[C@@H]1OC(OC1)(C)C)NC=O | C12H16ClN5O5
